US09193693B2
Step 3. Ethyl 2,3-bis(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylate
Into a 20-mL sealed tube, was placed a solution of ethyl 2,3-dichloroquinoxaline-6-carboxylate (150 mg, 0.55 mmol, 1.00 equiv), 4-phenylpiperidine (298 mg, 1.85 mmol, 3.00 equiv), DIEA (398 mg, 3.09 mmol, 5.00 equiv) in N,N-dimethylformamide (10 mL). The resulting solution was stirred overnight at 100° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10). This resulted in 180 mg (62%) of ethyl 2,3-bis(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylate as a yellow solid.

reactant | ethyl 2,3-dichloroquinoxaline-6-carboxylate | 0.55 mmol, 150 mg, 1.00 equiv | ClC1=NC2=CC=C(C=C2N=C1Cl)C(=O)OCC | C11H8Cl2N2O2
reactant | 4-phenylpiperidine | 1.85 mmol, 298 mg, 3.00 equiv | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | DIEA | 3.09 mmol, 398 mg, 5.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | Ethyl 2,3-bis(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylate | C1(=CC=CC=C1)C1CCN(CC1)C1=NC2=CC=C(C=C2N=C1N1CCC(CC1)C1=CC=CC=C1)C(=O)OCC | C33H36N4O2
